US05064814
1.29 g piperidine-4-carboxylic acid and 2.76 g potassium carbonate were combined in 100 ml of 50% aqueous tetrahydrofuran and 2.18 g di-t-butyldicarbonate was added. The mixture was stirred vigorously for 17 hours. The mixture was evaporated in vacuo to remove the tetrahydrofuran, then acidified with 1N hydrochloric acid and the mixture extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate, filtered and evaporated to give N-t-butoxy-carbonyl-piperdine-4-carboxylic acid.

reactant | piperidine-4-carboxylic acid | 1.29 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyldicarbonate | 2.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-t-butoxy-carbonyl-piperdine-4-carboxylic acid | C(C)(C)(C)ON1C(CC(CC1)C(=O)O)=C=O | C11H17NO4
